Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C-:6]#[O+:7].[C:1]([O:2][C:3]([C:4](=[C:5]([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:17]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],32.249476747668616
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3]([C+:4]([O:5][H:16])[H:15])([H:12])[H:13])(=[C:6]=[N-:7])[H:11]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],22.143233469091022
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])=[C:6]=[C:7]([H:10])[H:15])([C:4]([O:5][H:14])([H:12])[H:13])([H:8])[H:9],84.25538681311379
[N:1](=[C:2]1\[C:5]2([C:4]([H:9])([H:10])[O:3][C:6]2([H:11])[H:12])[N:7]1[H:13])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],68.61725161782721
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:2]1([H:9])([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C@:6]1([O:7][H:15])[H:14].[O:1]([H:8])[H:13],59.289242947689104
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:4]1([H:14])[C:3]([H:12])=[O+:7][C-:6]([H:17])[C:5]1([H:15])[H:16])([H:11])[H:13])([H:8])([H:9])[H:10],69.1689908123527
[C:1]([C:2](=[C:3]([H:12])[H:13])[C:7]([C@:4]1([H:11])[C:5]([H:14])([H:15])[O:6]1)([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],101.1971049614807
[C:6](=[O:7])([H:11])[H:13].[O:1](/[C:2](=[C:3](\[C:4](=[O:5])[H:12])[H:10])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],61.82055239394468
[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4](=[N:5]/[O:6][H:13])(\[C:7]([H:14])([H:15])[H:16])[H:11]>>[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],8.83300246977921
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:4]([C+:3]([H:12])[H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1=[C-:7][H:17])([H:8])([H:9])[H:10],66.9074163098623
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:3]([C@@:2]1([H:10])[C:5]([H:14])([H:15])[O:6]1)([H:11])[H:12])([H:7])([H:8])[H:9].[O:4]([H:13])[H:16],76.11208416540221
[C:1]([C:2]([C:3]([C+:4]=[C:6]=[N-:7])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:15])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],2.262210271684282
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:9])[C@@:3]([C:6]#[N:7])([H:11])[C:4]1=[C:5]([H:10])[H:12])[H:8],63.4474218810356
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[C:3](=[C:4]=[C:5]([C:6]#[N:7])[H:10])([H:8])[H:9].[O+:1]#[C-:2],27.104657132666503
[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[O:4]=[C:5]=[N:6][H:11],47.3045113248361
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16]>>[C:1]1([H:8])=[C:2]([H:9])[C:6]1([C:5]([H:7])([H:14])[H:15])[H:16].[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11],117.247145848873
[C:1](/[C:2]([C:3]([O:4][H:13])([H:11])[H:12])=[C:5](/[O:6][H:16])[H:15])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],82.3413436267343
[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[N:5](=[C:6](/[O:7][H:12])[H:16])\[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],50.547338568536674
[C:1]([C:2]([O:3][C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1]([C:2]([O:3][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],63.4959740764925
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])=[C:5]([H:15])[C@@:6]12[H:16].[H:13][H:14],102.141399331901
[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:6]([C:4]2=[N:5][C:3]2([H:10])[H:11])=[C:7]1[H:12])[H:8],96.13520383593729
[C:1]([N:2]([C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:3](=[O:4])=[O:5]>>[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],69.92791216179745
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]=[C:5]=[N:6][C:4](=[C:3])[H:7],100.72066976059799
